US08536210B2
Step 1: 5-Ethoxy-1,3-benzodioxole-4-carbaldehyde
Under argon to a stirred solution of 5-hydroxy-1,3-benzodioxole-4-carbaldehyde (0.151 g, 0.91 mmol) and K2CO3 (1 eq) in dry N,N-dimethylformamide (2 ml) ethyl-bromide (1 eq) was added. The mixture was stirred at room temperature for 18 h until the starting material had been consumed (monitored by TLC). Then the mixture was poured onto ice water (15 ml). This aqueous phase was extracted with ethyl acetate (1×40 ml, then 2×15 ml) and the combined organic phases were washed with water and dried over anhydrous MgSO4. The solvent was evaporated in vacuo, and the crude product was purified by column chromatography with a mixture of n-hexane:ethyl acetate (4:1) as the eluent.

reactant | 5-hydroxy-1,3-benzodioxole-4-carbaldehyde | 0.91 mmol, 0.151 g | OC1=C(C2=C(OCO2)C=C1)C=O | C8H6O4
reactant | K2CO3 | 1 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | N,N-dimethylformamide | 2 ml, 1 eq | CN(C=O)C | C3H7NO
product | 5-Ethoxy-1,3-benzodioxole-4-carbaldehyde | C(C)OC1=C(C2=C(OCO2)C=C1)C=O | C10H10O4
